US04048330
To a mixture of 23.1 g. of 2-naphthyl magnesium bromide and 250 ml. of diethyl ether, 7 g. of cyclobutanone are slowly added. After the addition, the mixture is refluxed for one hour, cooled, acidified with aqueous hydrochloric acid and filtered. The product was isolated by methylene chloride extraction to furnish 2-(1'-hydroxycyclobutyl)-napthalene. The product is hydrogenated in 200 ml. of ethanol with a molar equivalent of hydrogen in the presence of 50 g. of Raney nickel; the reaction mixture is filtered after the hydrogenolysis and evaporated to furnish 2-cyclobutylnaphthalene.

reactant | 2-naphthyl magnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(1'-hydroxycyclobutyl)-napthalene | OC1(CCC1)C1=CC2=CC=CC=C2C=C1 | C14H14O
